US07163947B2
A solution of N-isopropyl(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)amine (1.84 g, 7.66 mmol) dissolved in 50 mL of 1,2-dichloroethane was treated with MCPBA (77% max., 2.36 g, 9.58 mmol). After stirring for 3 h, the reaction mixture was treated with 2% Na2CO3 solution and extracted into CH2Cl2. The organic portion was washed with saturated 2% Na2CO3 solution, H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated to give N-isopropyl(2-methyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amine (1.95 g) as a light orange solid.

reactant | N-isopropyl(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)amine | 7.66 mmol, 1.84 g | C(C)(C)NN1C(=NC=2C=NC=3C=CC=CC3C21)C | C14H16N4
reactant | MCPBA | 9.58 mmol, 2.36 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | N-isopropyl(2-methyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amine | 1.95 g | C(C)(C)NN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])C | C14H16N4O
